data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4198,4803,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([CH3:11])[O+:12]=[C:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[O:12][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[CH3:11],water,298.15,24.911924315530968,4.536390380556264
2317,2573,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][C-:15]([NH+:16]=[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:15]([C:14]#[N:13])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[NH:16][C:17]3([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,25.17977090277273,-28.1778867990042
2284,2531,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([N+:25]#[C:26][C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]([CH3:28])=[O:29])=[N:25][C:24]2([C:22]([O:21][CH3:20])=[O:23])[C:30]([CH3:31])=[O:32],water,298.15,10.885950945876528,-53.09502486254549
282,306,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH3:6][NH:7][C:8](=[O:9])[C-:10]([N+:11]#[C:12][C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:12]([C:13]([CH3:14])=[O:15])=[N:11][C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:16]([CH3:17])=[O:18],water,298.15,24.755775096396714,-65.8240252449341
5199,5900,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C-:19]([NH+:20]=[CH:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[C:28](=[O:29])[O:30][CH3:31]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:28](=[O:29])[O:30][CH3:31])[NH:20][CH:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,19.184696848622654,6.54754715560813
1231,1342,[CH3:17][O:18][C:19](=[O:20])[C:21]([C:22]#[N:23])=[NH+:24][O-:25].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([F:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([O:18][CH3:17])=[O:20])([C:22]#[N:23])[NH:24][O:25]2,water,298.15,20.237186089309223,-24.69681270552268
66,77,[CH3:10][N-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[N:11]([CH3:10])[NH:12][C:13]3([C:14]#[N:15])[C:16]#[N:17],water,298.15,26.10978038531342,-18.25341431520518
1132,1231,[CH2-:18][NH+:19]=[C:20]([CH3:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[CH2:18][NH:19][C:20]2([CH3:21])[C:22]([CH3:23])=[O:24],water,298.15,13.906742950541847,-44.29332585217919
5190,5889,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N+:6](=[C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[N:6]([CH3:5])[C:7]1([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,40.99971726929189,-14.510711118867414
3276,3710,[CH3:6][CH-:7][N+:8]([CH3:9])=[C:10]([C:11]#[N:12])[C:13](=[O:14])[NH:15][CH3:16].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:7]([CH3:6])[N:8]([CH3:9])[C:10]1([C:11]#[N:12])[C:13](=[O:14])[NH:15][CH3:16],water,298.15,56.89215006265778,40.151326930849606
5137,5832,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH-:15][N+:16]([CH3:17])=[C:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[N:16]([CH3:17])[C:18]2([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,30.28386956556784,-7.6761522275742
